US07183423B1
A mixture of 3 mmol of methyl 3-cyano-acrylate, 30 mmol of 2-propanol, 0.6 mmol of N-hydroxyphthalimide, 0.003 mmol of cobalt(II) acetate, 0.03 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 70° C. in an oxygen atmosphere (1 atm) for 8 hours. A reaction mixture was subjected to column chromatography on a silica gel to yield β-cyano-α-hydroxy-γ,γ-dimethyl-γ-butyrolactone in a yield of 68%.

reactant | methyl 3-cyano-acrylate | 3 mmol | C(#N)C=CC(=O)OC | C5H5NO2
reactant | 2-propanol | 30 mmol | CC(C)O | C3H8O
reactant | N-hydroxyphthalimide | 0.6 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | cobalt(II) acetate | 0.003 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | β-cyano-α-hydroxy-γ,γ-dimethyl-γ-butyrolactone | yield of 68% | C(#N)C1C(C(=O)OC1(C)C)O | C7H9NO3
